US07125865B2
A mixture of 5,5-dimethylhydantoin (5.25 g), 1-bromo-3-chloropropane (8.5 mL), and Cs2CO3 (20.78 g) in 40 mL DMF was allowed to react overnight. The reaction was poured into 125 mL H2O, extracted with ether, and the combined extracts dried over MgSO4. The crude extract was filtered, then reduced in vacuo to yield a clear oil. The residue was chromatographed (50% EtOAc in hexanes) to yield 3-(3-chloropropyl)-5,5-dimethylimidazolidinedione as a white solid.

reactant | 5,5-dimethylhydantoin | 5.25 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | 1-bromo-3-chloropropane | 8.5 mL | BrCCCCl | C3H6BrCl
reactant | Cs2CO3 | 20.78 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | H2O | 125 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(3-chloropropyl)-5,5-dimethylimidazolidinedione | ClCCCN1C(NC(C1=O)(C)C)=O | C8H13ClN2O2
